US07034033B2
Step 2. Synthesis of 4,4-difluorocyclohexylamine
A solution of N-(4,4-difluorocyclohexyl)(t-butoxy)carboxamide (6.51 mmol) in CH2Cl2 (20 mL) was treated with TFA (10 mL) at room temperature. The reaction mixture was stirred for 2 hours, the solvent was removed in vacuo, and the crude product was dissolved in water and washed with chloroform. The acidic aqueous phase was cooled at 0° C. and made basic by the addition of solid KOH. The resulting mixture was extracted with CH2Cl2, dried, and filtered yielding the title compound which was used without further purification as a 0.3 M solution in CH2Cl2.

reactant | N-(4,4-difluorocyclohexyl)(t-butoxy)carboxamide | 6.51 mmol | FC1(CCC(CC1)NC(=O)OC(C)(C)C)F | C11H19F2NO2
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4,4-difluorocyclohexylamine | FC1(CCC(CC1)N)F | C6H11F2N
